US07507748B2
To a solution of 2-chloronicotinoyl chloride (3.52 g, 20 mmol, 1.0 eq.) and 7-amino-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (5.52 g, 20 mmol, 1.0 eq.) in CH2Cl2 (100 mL) was added NaHCO3 (6.4 g, 80 mmol, 4.0 eq.). The mixture was stirred for 1 h at RT, then filtered and concentrated, followed by drying on a vacuum pump for 3 hours. 7-[(2-Chloro-pyridine-3-carbonyl)-amino]-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester was obtained as a white foamy solid. This title compound was used for next step without further purification.

reactant | 2-chloronicotinoyl chloride | 20 mmol, 3.52 g, 1.0 eq. | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | 7-amino-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 20 mmol, 5.52 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)N | C16H24N2O2
reactant | NaHCO3 | 80 mmol, 6.4 g, 4.0 eq. | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-[(2-Chloro-pyridine-3-carbonyl)-amino]-4,4-dimethyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)NC(=O)C=1C(=NC=CC1)Cl | C22H26ClN3O3
